US07700624B2
N-[(1R,3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]—N-methyltetrahydrofuran-3-amine
To a solution of N-[(1R,3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]tetrahydrofuran-3-amine (160 mg) in 5mL of methanol was added a solution of formaldehyde (10 equiv) followed by NaCNBH3 (3 equiv). Once the reaction was complete, the volatiles were removed and the residue taken in ethyl acetate. The ethyl acetate layer was washed with aqueous NaOH (2.5N). The organic layer was dried over sodium sulfate, filtered and evaporated. The residue was purified by chromatography to give the title compound (126 mg). MS calculated for C24H35F3N4O2: (M+H) 469.2712; found 469.2817.

reactant | N-[(1R,3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]tetrahydrofuran-3-amine | 160 mg | C(C)(C)[C@]1(C[C@@H](CC1)NC1COCC1)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C23H33F3N4O2
reactant | formaldehyde | 10 equiv | C=O | CH2O
reactant | NaCNBH3 | 3 equiv | [BH3-]C#N.[Na+]
solvent | methanol | 5mL | CO | CH4O
product | N-[(1R,3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]—N-methyltetrahydrofuran-3-amine | 126 mg | C(C)(C)[C@]1(C[C@@H](CC1)N(C1COCC1)C)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C24H35F3N4O2
